US07589232B2
Step b) Formation of 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(2-thienylacetyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-(2-thienyl)acetamide and NaOH as a brown solid (42%). M− (ESI): 499.7; M+ (ESI): 502.3. HPLC, Rt: 4.92 min (Purity: 88.5%).

reactant | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2-(2-thienyl)acetamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(CC=2SC=CC2)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C31H24ClNO4S
reactant | NaOH | [OH-].[Na+]
product | 5-[{4-[(4-chlorophenyl)ethynyl]benzyl}(2-thienylacetyl)amino]-2-hydroxybenzoic acid | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(CC=2SC=CC2)=O)C=C1 | C28H20ClNO4S
